US07365197B2
Following the procedure of Example 16, 0.43 g (0.98 mmol) of 4-(2,4-dichloro-5-methoxyphenylamino)-8-hydroxy-7-methoxybenzo[g]quinoline-3-carbonitrile is reacted with 0.31 g (1.25 mmol) of 3-chloropropyl p-toluene sulfonate and 0.48 g of (1.47 mmol) of cesium carbonate, then an additional 0.05 g (0.2 mmol) of 3-chloropropyl p-toluene sulfonate and 0.07 g (0.2 mmol) of cesium carbonate in 6 mL of dry dimethyl formamide. The crude product is purified by silica gel flash chromatography, utilizing a 99.5:0.5 to 99:1 gradient of methylene chloride/methanol to give 0.118 g of 8-(3-chloropropoxy)-4-(2,4-dichloro-5-methoxyphenylamino)-7-methoxybenzo[g]quinoline-3-carbonitrile as a yellow solid, mp 220-223° C.

reactant | 4-(2,4-dichloro-5-methoxyphenylamino)-8-hydroxy-7-methoxybenzo[g]quinoline-3-carbonitrile | 0.98 mmol, 0.43 g | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)O)OC)C#N | C22H15Cl2N3O3
reactant | 3-chloropropyl p-toluene sulfonate | 1.25 mmol, 0.31 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCl)C | C10H13ClO3S
reactant | cesium carbonate | 1.47 mmol, 0.48 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-chloropropyl p-toluene sulfonate | 0.2 mmol, 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCl)C | C10H13ClO3S
reactant | cesium carbonate | 0.2 mmol, 0.07 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl formamide | 6 mL | CN(C=O)C | C3H7NO
product | 8-(3-chloropropoxy)-4-(2,4-dichloro-5-methoxyphenylamino)-7-methoxybenzo[g]quinoline-3-carbonitrile | 0.118 g | ClCCCOC1=CC2=C(C=C3C(=C(C=NC3=C2)C#N)NC2=C(C=C(C(=C2)OC)Cl)Cl)C=C1OC | C25H20Cl3N3O3
